US06992087B2
Preparation of cis-(+/−)-4-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]tetrahydrofuran-3-ol
Following the procedure for the preparation of (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting trans-(+/−)-4-[(3,6-diethylpyrazin-2-yl)amino]tetrahydrofuran-3-ol and making non-critical variations provided the title compound as a light yellow solid. IR (diffuse reflectance) 3398, 2971, 2938, 1569, 1539, 1490, 1466, 1447, 1413, 1397, 1251, 1232, 1054, 969, 891 cm−1; OAMS supporting ions at: ESI+ 315.9 & ESI− 313.9; MS (EI) m/z 315 (M+); HRMS (FAB) calcd for C12H18BRN3O2+H1 316.0661, found 316.0656; Anal. Calcd for C12H18BrN3O2: C, 45.58; H, 5.74; N, 13.29. Found: C, 45.49; H, 5.84; N, 13.14.

reactant | (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | BrC=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C17H20BrN3O
reactant | trans-(+/−)-4-[(3,6-diethylpyrazin-2-yl)amino]tetrahydrofuran-3-ol | C(C)C=1C(=NC(=CN1)CC)N[C@H]1[C@@H](COC1)O | C12H19N3O2
product | cis-(+/−)-4-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]tetrahydrofuran-3-ol | BrC=1N=C(C(=NC1CC)N[C@@H]1[C@@H](COC1)O)CC | C12H18BrN3O2
